US07829707B2
(a) Methyl {[tert-butyl(dimethyl)silyl]oxy}(4-methoxyphenyl)acetate
TBDMSCl (1.5 g, 9.94 mmol) and imidazole (1.0 g, 14.6 mmol) were added to a solution of methyl hydroxy-(4-methoxyphenyl)acetate (Teodozyj Kolasa et al., J. Org. Chem., 1987, 22, 4978-4984) (1.3 g, 6.62 mmol) in DMF (8 mL) and the mixture was stirred at r.t. for 2 h. Water was added and the mixture was extracted with diethyl ether. The organic layer was washed with brine, dried (MgSO4), filtered and concentrated to give the title compound (2.0 g, 97%).

reactant | TBDMSCl | 9.94 mmol, 1.5 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 14.6 mmol, 1.0 g | N1C=NC=C1 | C3H4N2
reactant | methyl hydroxy-(4-methoxyphenyl)acetate | 6.62 mmol, 1.3 g | OC(C(=O)OC)C1=CC=C(C=C1)OC | C10H12O4
reactant | Water | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | Methyl {[tert-butyl(dimethyl)silyl]oxy}(4-methoxyphenyl)acetate | 2.0 g, 97% | [Si](C)(C)(C(C)(C)C)OC(C(=O)OC)C1=CC=C(C=C1)OC | C16H26O4Si
